US07449463B2
LiAlH4 (0.0002 mol) was added at 5° C. to a mixture of 3-{4-[1-(3-hydroxy-6-methyl-pyridin-2-ylmethyl)-4,6-dimethyl-1H-benzoimidazol-2-ylamino]-piperidin-1-yl}-propionic acid ethyl ester (r-1; 0.00009 mol; melting point: 172° C.) in tetrahydrofuran (10 ml) under N2 flow. The mixture was stirred at 5° C. for 1 hour, then at room temperature for 3 hours. A minimum of H2O and ethylacetate were added. The organic layer was separated, dried (over MgSO4), filtered and the solvent was evaporated until dryness. The residue was crystallized from 2-propanone/CH3CN/diisopropylether. The precipitate was filtered off and dried, yielding 0.026 g of 2-{2-[1-(3-hydroxy-propyl)-piperidin-4-ylamino]-4,6-dimethyl-benzoimidazol-1-ylmethyl}-6-methyl-pyridin-3-ol (r-2; 68%, melting point: 209° C.).

reactant | LiAlH4 | 0.0002 mol | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-{4-[1-(3-hydroxy-6-methyl-pyridin-2-ylmethyl)-4,6-dimethyl-1H-benzoimidazol-2-ylamino]-piperidin-1-yl}-propionic acid ethyl ester | 0.00009 mol | C(C)OC(CCN1CCC(CC1)NC1=NC2=C(N1CC1=NC(=CC=C1O)C)C=C(C=C2C)C)=O | C26H35N5O3
reactant | H2O | O | H2O
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-{2-[1-(3-hydroxy-propyl)-piperidin-4-ylamino]-4,6-dimethyl-benzoimidazol-1-ylmethyl}-6-methyl-pyridin-3-ol | 0.026 g, 68% | OCCCN1CCC(CC1)NC1=NC2=C(N1CC1=NC(=CC=C1O)C)C=C(C=C2C)C | C24H33N5O2
